US06140338
Synthesis of N-[9-(cyclooctylmethyl)-9-azabicyclo[3.3.1]nonan-3-yl]xanthene-9-carboxamide
38.5 mg of N-(9-azabicyclo[3.3.1]nonan-3-yl)xanthene-9-carboxamide hydrochloride and 44.1 mg of cyclooctanecarbaldehyde were suspended in 3 ml of methanol at room temperature, and 1.60 g of sodium triacetoxyborohydride was added thereto, followed by stirring for 12 hours at the same temperature. Saturated aqueous sodium bicarbonate was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, the obtained residue was purified by preparative thin layer chromatography (Kieselgel™60F254, Art5744 produced by Merck Co.: chloroform/methanol=19/1), and 9.0 mg of the title compound as a white solid was obtained.

reactant | N-(9-azabicyclo[3.3.1]nonan-3-yl)xanthene-9-carboxamide hydrochloride | 38.5 mg | Cl.C12CC(CC(CCC1)N2)NC(=O)C2C1=CC=CC=C1OC=1C=CC=CC21
reactant | cyclooctanecarbaldehyde | 44.1 mg | C1(CCCCCCC1)C=O | C9H16O
reactant | sodium triacetoxyborohydride | 1.60 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | N-[9-(cyclooctylmethyl)-9-azabicyclo[3.3.1]nonan-3-yl]xanthene-9-carboxamide | 9.0 mg | C1(CCCCCCC1)CN1C2CC(CC1CCC2)NC(=O)C2C1=CC=CC=C1OC=1C=CC=CC21 | C31H40N2O2
